US07884234B2
(1) Preparation of 4-bromo-2-nitroanisole
4-Bromo-2-nitrophenol (1.00 g, 4.59 mmol) was added in small portions to a suspension of sodium hydride (400 mg, 9.17 mmol) in dimethylformamide (12 ml) at room temperature under argon atmosphere, then the mixture was stirred at room temperature for 30 minutes. A solution of methyl iodide (1.30 g, 9.174 mmol) in dimethylformamide (4 ml) was added to this mixture, and stirred at room temperature for 6 hours. The reaction mixture was diluted with water and extracted with diisopropyl ether. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (658 mg, 61.8%) as a pale yellow solid.

reactant | 4-Bromo-2-nitrophenol | 4.59 mmol, 1.00 g | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | sodium hydride | 9.17 mmol, 400 mg | [H-].[Na+]
reactant | methyl iodide | 9.174 mmol, 1.30 g | CI | CH3I
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2-nitroanisole | 658 mg, 61.8% | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
